US08669271B2
4-[5-(4-Cyano-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester and 4-bromo-benzonitrile following a procedure analogous to that described in Example 1. Yield: 66% of theory; LC (method 1): tR=1.52 min; Mass spectrum (ESI+): m/z=391 [M+H]+.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C23H34BNO5
reactant | 4-bromo-benzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
product | 4-[5-(4-Cyano-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | Yield: 66% | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C#N | C24H26N2O3
